** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_8bit.sch
**.subckt cdac_8bit vref vdd vss dac_in[7],dac_in[6],dac_in[5],dac_in[4],dac_in[3],dac_in[2],dac_in[1],dac_in[0] vdac
*.ipin vref
*.iopin vdd
*.iopin vss
*.ipin dac_in[7],dac_in[6],dac_in[5],dac_in[4],dac_in[3],dac_in[2],dac_in[1],dac_in[0]
*.opin vdac
XSW0 vref vdd vss bot0 dac_in[0] cdac_switch_1b
C0 vdac bot0 2f
XSW1 vref vdd vss bot1 dac_in[1] cdac_switch_1b
C1 vdac bot1 4f
XSW2 vref vdd vss bot2 dac_in[2] cdac_switch_1b
C2 vdac bot2 8f
XSW3 vref vdd vss bot3 dac_in[3] cdac_switch_1b
C3 vdac bot3 16f
XSW4 vref vdd vss bot4 dac_in[4] cdac_switch_1b
C4 vdac bot4 32f
XSW5 vref vdd vss bot5 dac_in[5] cdac_switch_1b
C5 vdac bot5 64f
XSW6 vref vdd vss bot6 dac_in[6] cdac_switch_1b
C6 vdac bot6 128f
XSW7 vref vdd vss bot7 dac_in[7] cdac_switch_1b
C7 vdac bot7 256f
CDummy vdac vss 2f
R_dc vdac vss 100G
**.ends

* expanding   symbol:  sar_adc/blocks/cdac/cdac_switch_1b.sym # of pins=5
** sym_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sym
** sch_path: /foss/designs/chipathon26-SAR_ADC/xschem/sar_adc/blocks/cdac/cdac_switch_1b.sch
.subckt cdac_switch_1b vref vdd vss bot bit
*.iopin vdd
*.iopin vss
*.iopin vref
*.ipin bit
*.iopin bot
XM1 bit_b bit vdd vdd pfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 bit_b bit vss vss nfet_03v3 L=0.28u W=0.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 bot bit_b vref vdd pfet_03v3 L=0.28u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 vref bit bot vss nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 bot bit vss vdd pfet_03v3 L=0.28u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 vss bit_b bot vss nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
